US05484911
1) rac-1-O-Tetradecylglycerol
To a mixture of Solketal (66.1 g, 0.5 mol), 1-bromotetradecane (159.4 g, 0.575 mol), and DMF (800 ml) was added 60% NaH (26.0 g, 0.65 mol) in oil dispersion in 3 portions for 1 hr. The mixture was stirred at room temperature for 1 day and methanol (20 ml) was added to destroy the excess NaH. This was then poured into 1500 ml of ice-water and the aqueous layer was extracted with hexanes (2000 ml). The combined organic layers were evaporated to dryness and the oily residue was refluxed in 10% HCl/methanol (conc. HCl, 250 ml and methanol, 675 ml) for 30 min followed by stirring at room temperature overnight. The white flaky solid was filtered and washed with methanol (122 g). The additional product was obtained from the filtrate (5.7 g); Total 127.7 g (88.5%). The crude product was recrystallized from diethyl ether; Yield 99.7 g (69.1%), mp 57°-58° C.

reactant | Solketal | 0.5 mol, 66.1 g | CC1(OCC(O1)CO)C | C6H12O3
reactant | 1-bromotetradecane | 0.575 mol, 159.4 g | BrCCCCCCCCCCCCCC | C14H29Br
reactant | DMF | 800 ml | CN(C)C=O | C3H7NO
reactant | NaH | 0.65 mol, 26.0 g | [H-].[Na+]
solvent | methanol | 20 ml | CO | CH4O
product | rac-1-O-Tetradecylglycerol | 5.7 g | C(CCCCCCCCCCCCC)OCC(O)CO | C17H36O3
